US20010044538A1
A solution of N-[3-(4-fluorobenzoyl)pyridin-4-yl]-2,2-dimethylpropanamide (2.85 g, 9.5 mmol) in 3 N aqueous HCl (15 ml) was warmed at reflux overnight. After cooling to room temperature, the reaction mixture was washed with ether, the aqueous layer was separated and neutralized with potassium carbonate. The product was extracted into ethyl acetate, dried over potassium carbonate/sodium carbonate and concentrated. The residue was purified by flash chromatography (5% methanol/methylene chloride gradient) to afford 4-amino-3-(4-fluorobenzoyl)pyridine (1.58 g).

reactant | N-[3-(4-fluorobenzoyl)pyridin-4-yl]-2,2-dimethylpropanamide | 9.5 mmol, 2.85 g | FC1=CC=C(C(=O)C=2C=NC=CC2NC(C(C)(C)C)=O)C=C1 | C17H17FN2O2
solvent | HCl | 3 N, 15 ml | Cl | ClH
product | 4-amino-3-(4-fluorobenzoyl)pyridine | 1.58 g | NC1=C(C=NC=C1)C(C1=CC=C(C=C1)F)=O | C12H9FN2O
